US06673804B1
N-(tert-Butoxycarbonyl)homoserine Benzyl Ester
A solution of di-tert-butylcarbonate (36.40 g, 166.8 mmol) in dioxane (100 ml) was added to a solution of (±)-α-amino-γ-butyrolactone hydrobromide (25.28 g, 138.9 mmol) in a mixture of dioxane/water=1/1 (200 ml). 20 minutes were spent in adding dropwise a solution of sodium hydroxide (12,58 g, 321.1 mmol) in water (100 ml) to the mixture with ice-cooling and with stirring. This mixture was stirred for 30 minutes with ice-cooling and then at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure. Water (300 ml) was added to the residue and the mixture was acidified by citric acid (25 g) and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethanol (200 ml), and a solution of sodium hydroxide (5.44 g, 138.9 mmol) in water (33 ml) was added to the solution with ice-cooling. After this mixture was allowed to stand at room temperature overnight, it was concentrated under reduced pressure. The resulting residue was dissolved in N,N-dimethylformamide (150 ml), benzyl bromide (16.5 ml, 138.7 mmol) was added to the solution, the mixture was stirred at room temperature overnight, and then it was concentrated under reduced pressure. To the residue, a saturated aqueous solution of ammonium chloride was added and this was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (39.75 g, yield 93%) as a pale yellow oil.

reactant | di-tert-butylcarbonate | 166.8 mmol, 36.40 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | (±)-α-amino-γ-butyrolactone hydrobromide | 138.9 mmol, 25.28 g | Br.NC1C(=O)OCC1
reactant | sodium hydroxide | 321.1 mmol, 12,58 g | [OH-].[Na+]
reactant | sodium hydroxide | 138.9 mmol, 5.44 g | [OH-].[Na+]
reactant | benzyl bromide | 138.7 mmol, 16.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane water | O1CCOCC1.O
solvent | water | 100 ml | O | H2O
solvent | water | 33 ml | O | H2O
product | N-(tert-Butoxycarbonyl)homoserine Benzyl Ester | 39.75 g, yield 93% | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CCO)=O | C16H23NO5
